US05177210
c) 2-Ethyl 7-tert.-butyl 2,7-diazabicyclo[3.3.0]octane-2,7-dicarboxylate
13 g (61.2 mmol) of tert.-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate are dissolved in 100 ml of toluene, a solution of 3 g of sodium hydroxide in 20 ml of water is added and 7 g (64.5 mmol) of ethyl chloroformate are added dropwise at room temperature. The mixture is stirred for three hours at room temperature, and the aqueous phase is separated off and extracted twice with 100 ml of methylene chloride each time. The organic solutions are dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | tert.-butyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 61.2 mmol, 13 g | C12NCCC2CN(C1)C(=O)OC(C)(C)C | C11H20N2O2
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | ethyl chloroformate | 64.5 mmol, 7 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 2-Ethyl 7-tert.-butyl 2,7-diazabicyclo[3.3.0]octane-2,7-dicarboxylate | C12N(CCC2CN(C1)C(=O)OC(C)(C)C)C(=O)OCC | C14H24N2O4
